US04459306
33.7 g of 11-(methoxycarbonyl methyl) [dibenzo (b,e)-1,4-dioxepin] were added to 50 ml of tetrahydrofuran. This clear solution was cooled between 0° and 10° C. and one N solution of lithium triethylborohydride in tetrahydrofuran was very slowly added. This reactive solution was added for about 6 hours while the stirring and cooling were maintained. The mixture was then left between 0° and -5° C., and the excess of the reactive solution was hydrolyzed with 100 ml of a 3N hydrochloric acid solution. The tetrahydrofuran was evaporated. The residual aqueous phase was extracted thrice with isopropyl ether. The organic solutions were joined together, washed with hydrochloric acid and then water. The solvent was distilled off and there were obtained 32.2 g of 11-hydroxyethyl dibenzo (b,e)-1,4-dioxepin. This product recrystallized from the tetrahydrofuran gives 19.6 g of pure product (yield: 65%). The hydroxy ethyl compound distills at 160°-163° C. under 0.1 mmHg M.P.=62°-64° C. (M.K.).

reactant | 11-(methoxycarbonyl methyl) [dibenzo (b,e)-1,4-dioxepin] | 33.7 g | COC(=O)CC1C2=C(OC3=C(O1)C=CC=C3)C=CC=C2 | C16H14O4
reactant | lithium triethylborohydride | C(C)[BH-](CC)CC.[Li+]
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 11-hydroxyethyl dibenzo (b,e)-1,4-dioxepin | 32.2 g | OCCC1C2=C(OC3=C(O1)C=CC=C3)C=CC=C2 | C15H14O3
